US08685969B2
11. Ethyl 4-(3-(benzyloxycarbonylamino)-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylate
To a light homogeneous, orange solution of benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-fluorophenylcarbamate (3.5215 g, 7.37 mmol) and ethyl 2-oxoacetate (2.92 mL, 14.75 mmol) (50% in toluene) under nitrogen was added 4N HCl/1,4-dioxane (2.212 mL, 8.85 mmol); reaction turned dark burgundy. The reaction was stirred overnight, concentrated in vacuo, dissolved in EtOAc (50 mL) and saturated aqueous NaHCO3 (20 mL). After separation of the layers, the aqueous layer was extracted with EtOAc (3×50 mL). The organic layers were combined, washed with brine (30 mL), dried over MgSO4, and concentrated in vacuo to give crude product which was used in subsequent step. This was added to 10% Pd/C (1.569 g, 1.474 mmol) in p-xylene (211 mL), and the solution was heated at 125° C. After 3.5 hr, the reaction was cooled to room temperature, filtered through a pad of CELITE®, and the insolubles were rinsed with EtOAc (250 mL). The filtrate was washed with brine (75 mL), and the layers were separated. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 220 g column eluting with 5-40% EtOAc/CH2Cl2. Appropriate fractions (20-25% elution) were collected and concentrated in vacuo to give the desired product (0.811 g, 1.381 mmol, 18.7% yield) as a light orange solid.

reactant | benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-fluorophenylcarbamate | 7.37 mmol, 3.5215 g | NCC(C1=CNC2=CC(=CC=C12)OCCOC)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)F | C27H28FN3O4
reactant | ethyl 2-oxoacetate | 14.75 mmol, 2.92 mL | O=CC(=O)OCC | C4H6O3
reactant | HCl 1,4-dioxane | 8.85 mmol, 4N, 2.212 mL | Cl.O1CCOCC1
solvent | p-xylene | 211 mL | CC=1C=CC(=CC1)C | C8H10
catalyst | Pd/C | 1.474 mmol, 1.569 g | [Pd] | Pd
product | Ethyl 4-(3-(benzyloxycarbonylamino)-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylate | 1.381 mmol, 0.811 g, 18.7% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)OCC)F | C31H28FN3O6
